US08877780B2
To a stirred mixture of 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione hydrochloride (0.50 g, 1.40 mmol) and 3-chlorophenylisocyanate (0.16 mL, 1.40 mmol) in N,N-dimethylformamide (10 mL), was added triethylamine (0.38 mL, 2.7 mmol) at room temperature under nitrogen. After 2 h, 1 N aq. HCl (40 mL) was added and the solids were isolated by filtration and washed with water (20 mL). The crude product was triturated in EtOAc (50 mL) for 0.5 h. The product was isolated by filtration and dried in vacuo to give 1-(3-chloro-phenyl)-3-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-urea as an off-white solid (0.52 g, 90% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 30/70 CH3CN/0.1% H3PO4, 9.26 min (96.05%); mp: 215-217° C.; 1H NMR (DMSO-d6) δ 1.88-2.12 (m, 1H, CHH), 2.27-2.47 (m, 1H, CHH), 2.60 (d, J=17.2 Hz, 1H, CHH), 2.77-3.03 (m, 1H, CHH), 4.31 (d, J=17.4 Hz, 1H, CHH), 4.37-4.54 (m, 3H, CHH, CH2), 5.11 (dd, J=5.1, 13.2 Hz, 1H, CH), 6.85 (t, J=5.9 Hz, 1H, NH), 6.90-7.07 (m, 1H, Ar), 7.10-7.34 (m, 2H, Ar), 7.45 (d, J=7.9 Hz, 1H, Ar), 7.52 (s, 1H, Ar), 7.61-7.78 (m, 2H, Ar), 8.88 (s, 1H, NH), 10.98 (s, 1H, NH); 13C NMR (DMSO-d6) δ 22.50, 31.21, 42.80, 47.13, 51.59, 116.12, 117.10, 120.73, 121.91, 122.94, 126.91, 130.22, 130.33, 133.09, 141.95, 142.39, 144.64, 155.00, 167.93, 171.00, 172.85; LCMS: MH=427/429; Anal Calcd for C21H19N4O4Cl: C, 59.09; H, 4.49; N, 13.13; Cl, 8.31. Found: C, 58.82; H, 4.22; N, 13.03; Cl, 8.32.

reactant | 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione hydrochloride | 1.40 mmol, 0.50 g | Cl.NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O
reactant | 3-chlorophenylisocyanate | 1.40 mmol, 0.16 mL | ClC=1C=C(C=CC1)N=C=O | C7H4ClNO
reactant | triethylamine | 2.7 mmol, 0.38 mL | C(C)N(CC)CC | C6H15N
reactant | HCl | 1 N, 40 mL | Cl | ClH
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 1-(3-chloro-phenyl)-3-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-urea | 0.52 g, 90% yield | ClC=1C=C(C=CC1)NC(=O)NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O | C21H19ClN4O4
